US05157041
To a solution, cooled in ice, of 3.0 g of 1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxylic acid in 7 ml of 2M sodium hydroxide solution, 17 ml of water and 17 ml of dioxan were added in alternating portions 12.5 ml of 2M sodium hydroxide solution and a solution of 3.6 ml of benzyl chloroformate in 9 ml of dioxan. After completion of the additions the mixture was stirred at room temperature overnight and the dioxan was then removed by evaporation under reduced pressure. The solution obtained was diluted with water, washed twice with diethyl ether, acidified with 25 ml of 1M sulphuric acid and extracted three times with ethyl acetate. The organic extracts were combined, washed twice with water, dried over anhydrous magnesium sulphate and evaporated to give 4.54 g of 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxylic acid, MS: m/e 351 [M+H]+, which was used without purification.

reactant | 1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxylic acid | 3.0 g | C1(NCCC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
reactant | benzyl chloroformate | 3.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | sodium hydroxide | 2M, 7 ml | [OH-].[Na+]
solvent | water | 17 ml | O | H2O
solvent | dioxan | 17 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 9 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 2M, 12.5 ml | [OH-].[Na+]
product | 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxylic acid | 4.54 g | C(C1=CC=CC=C1)OC(=O)N1C(C=2NC3=CC=CC=C3C2CC1)C(=O)O | C20H18N2O4
